US07211592B2
6-Methyl-3-(toluene-4-sulfonyl )-3H-benzo[1,2,3]oxathiazole 2,2-dioxide
At −78° C., a solution of sulfuryl chloride (450 μl, 5.41 mmol) in CH2Cl2 (10 ml) is slowly added dropwise to a solution of N-(2-hydroxy-4-methylphenyl)-4-methylbenzenesulfonamide (1.5 g, 5.41 mmol) and triethylamine (1.5 ml), and the mixture is stirred at −78° C. for one hour. After thawing to RT, the solvent is distilled off under reduced pressure and the residue is purified by RP chromatography.

reactant | sulfuryl chloride | 5.41 mmol, 450 μl | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | N-(2-hydroxy-4-methylphenyl)-4-methylbenzenesulfonamide | 5.41 mmol, 1.5 g | OC1=C(C=CC(=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C | C14H15NO3S
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 6-Methyl-3-(toluene-4-sulfonyl )-3H-benzo[1,2,3]oxathiazole 2,2-dioxide | CC1=CC2=C(N(S(O2)(=O)=O)S(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C14H13NO5S2
